US06037477
A mixture of 2 mmole of phthalide, 2 mole % of N-hydroxyphthalimide relative to phthalide, and 5 ml of benzonitrile was stirred for 12 hours at 100° C. under an oxygen atmosphere. The products in the reaction mixture were analyzed by gas chromarography, and, as a result, phthalic anhydride (yield 46%) was formed.

reactant | phthalide | 2 mmole | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
solvent | benzonitrile | 5 ml | C(C1=CC=CC=C1)#N | C7H5N
product | phthalic anhydride | yield 46% | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
